US04472305
Condensation of BocPro-DTrp-MePheOH (0.800 g.) and HDTrp-Leu-MetNH2 acetate salt (part B of Example 17, 0.721 g.) using dicyclohexylcarbodiimide and 1-hydroxybenzotriazole gave BocPro-DTrp-MePhe-DTrp-Leu-MetNH2 in 31% yield. De-t-butoxycarbonylation of BocPro-DTrp-MePhe-DTrp-Leu-MetNH2 (0.400 g.) using trifluoroacetic acid in dimethyl sulfide and ethanedithiol gave HPro-DTrp-MePhe-DTrp-Leu-MetNH2, which was isolated as the amorphous white solid phosphate (1:2) salt dihydrate in 23% yield.

reactant | BocPro-DTrp-MePhe-DTrp-Leu-MetNH2 | 0.400 g | N1([C@H](C(=O)N[C@H](CC2=CNC3=CC=CC=C23)C(=O)N([C@@H](CC2=CC=CC=C2)C(=O)N[C@H](CC2=CNC3=CC=CC=C23)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)C)CCC1)C(=O)OC(C)(C)C | C53H69N9O8S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dimethyl sulfide | CSC | C2H6S
solvent | ethanedithiol | C(C)(S)S | C2H6S2
product | HPro-DTrp-MePhe-DTrp-Leu-MetNH2 | N1[C@H](C(=O)N[C@H](CC2=CNC3=CC=CC=C23)C(=O)N([C@@H](CC2=CC=CC=C2)C(=O)N[C@H](CC2=CNC3=CC=CC=C23)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)C)CCCC1 | C49H63N9O6S
